US04914112
To 2-(2-fluoro-4-biphenylyl)-propionic acid (30.0 g, 0.123 mol) in ethanol (300 ml) was added conc. sulfonic acid (3.0 g). After the addition, the mixture was stirring at 50° C. for 5 h, the concentrated and extracted with benzene. The benzene extracts were washed with aqueous sodium hydrogen carbonate solution then with water, and dried over. The extracts were evaporated under reduced pressure to afford ethyl-2-(2-fluoro-4-biphenylyl)propionate (33.6 g, 0.123 mol) as oily residue.

reactant | 2-(2-fluoro-4-biphenylyl)-propionic acid | 0.123 mol, 30.0 g | FC1=C(C=CC(=C1)C(C(=O)O)C)C1=CC=CC=C1 | C15H13FO2
reactant | ethanol | 300 ml | C(C)O | C2H6O
product | ethyl-2-(2-fluoro-4-biphenylyl)propionate | 0.123 mol, 33.6 g | C(C)OC(C(C)C1=CC(=C(C=C1)C1=CC=CC=C1)F)=O | C17H17FO2
